US05489687
3.7-Dichloro-8-quinolinecarboxylic acid chloride (III)
3,7-Dichloro-8-quinolinecarboxylic acid(20 g, 82 mmol) was added to thionyl chloride(80 ml), and the mixture refluxed for 3 hours and concentrated under reduced pressure to afford the desired product(20.6 g, yield=95.7%) as a light brown solid.

reactant | 3,7-Dichloro-8-quinolinecarboxylic acid | 82 mmol, 20 g | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C(=O)O | C10H5Cl2NO2
reactant | thionyl chloride | 80 ml | S(=O)(Cl)Cl | Cl2OS
product | 3.7-Dichloro-8-quinolinecarboxylic acid chloride | 20.6 g, yield=95.7% | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C(=O)Cl | C10H4Cl3NO
